US07842685B2
To a mixture of 1-(2-fluorophenyl)ethanone (2.00 g, 14.5 mmol) and sodium carbonate (2.46 g, 23.2 mmol) in 30 mL anhyd. DCM was added triflic anhydride (4.89 mL, 29.0 mmol) in 15 mL DCM slowly, dropwise. Upon complete addition the reaction mixture was light yellow. The reaction mixture was allowed to stir over the weekend, at which point it became dark brown. The reaction mixture was filtered through a frit, rinsing with DCM and the filtrate was washed with sat'd aq. NaHCO3, water, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, 0-10% EA/hexanes. The product-containing fractions were concentrated in vacuo to give 1-(2-fluorophenyl)vinyl trifluoromethanesulfonate as a yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.48-7.56 (m, 1 H), 7.36-7.46 (m, 1 H), 7.22 (dd, J=7.8, 7.8 Hz, 1 H), 7.15 (dd, J=10.8, 8.8 Hz, 1 H), 5.76 (d, J=3.5 Hz, 1 H), 5.59-5.65 (m, 1 H).

reactant | 1-(2-fluorophenyl)ethanone | 14.5 mmol, 2.00 g | FC1=C(C=CC=C1)C(C)=O | C8H7FO
reactant | sodium carbonate | 23.2 mmol, 2.46 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triflic anhydride | 29.0 mmol, 4.89 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-fluorophenyl)vinyl trifluoromethanesulfonate | FC(S(=O)(=O)OC(=C)C1=C(C=CC=C1)F)(F)F | C9H6F4O3S
